US06080754
2-(4-Benzyloxyphenyl)-1-ethyl-4-hydroxymethylpyrrolo[2,1,5-cd]indolizine (1.0 g, 2.62 mmol) was dissolved in 100 ml of dry dimethylformamide under nitrogen atmosphere. Sodium hydride (60% in oil) (1.23 g, 30.8 mmol) and potassium-t-butoxide (0.03 g, 0.26 mmol) was added in portions and stirring was continued for ten minutes. 3-Dimethylamino-1-propylchloride hydrochloride (1.24 g, 7.84 mmol) was added, and the solution was stirred for twenty-four hours. Ethanol (20 ml) was added dropwise, and the reaction mixture was diluted with 250 ml of water. The organic material was extracted into ethyl acetate (2×100 ml), and the combined organic layers were dried over sodium hydrogen carbonate. The solvent was evaporated and the crude product was purified by column chromatography over silica gel 60, using 10% of methanol in dichloromethane as the eluent to afford 0.58 g (47%) of 2-(4-benzyloxyphenyl)-4-((3-dimethylaminopropoxy)methyl)-1-ethylpyrrolo[2,1,5-cd]indolizine as yellow crystals. M.p. 63-65° C. MS(SP): m/z 466 (M+). 1H-NMR (CDCl3, 300 MHz) δ: 1.47 (t, 3H); 1.82 (m, 2H); 2.23 (s, 6H); 2.39 (t, 2H); 3.24 (q, 2H); 3.61 (t, 2H); 5.01 (s, 2H); 5.17 (s, 2H); 7.15 (d, 2H); 7.32-7.52 (m, 5H); 7.53 (s, 1H); 7.64 (t, 1H); 7.73 (d, 2H); 7.91 (d, 1H); 7.99 (d, 1H).

reactant | 2-(4-Benzyloxyphenyl)-1-ethyl-4-hydroxymethylpyrrolo[2,1,5-cd]indolizine | 2.62 mmol, 1.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=C(C2=CC=CC=3N2C1=CC3CO)CC | C26H23NO2
reactant | Sodium hydride | 30.8 mmol, 1.23 g | [H-].[Na+]
reactant | potassium-t-butoxide | 0.26 mmol, 0.03 g | CC(C)([O-])C.[K+]
reactant | 3-Dimethylamino-1-propylchloride hydrochloride | 7.84 mmol, 1.24 g | Cl.CN(CCCCl)C
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | 250 ml | O | H2O
solvent | Ethanol | 20 ml | C(C)O | C2H6O
product | 2-(4-benzyloxyphenyl)-4-((3-dimethylaminopropoxy)methyl)-1-ethylpyrrolo[2,1,5-cd]indolizine | 0.58 g, 47% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=C(C2=CC=CC=3N2C1=CC3COCCCN(C)C)CC | C31H34N2O2
